US07834063B2
N-[4-({2-[[4-Cyano-3-(trifluoromethyl)phenyl](2,2,2-trifluoroethyl)amino]ethyl}oxy)phenyl]acetamide
Synthesized as described in Example 1C using 4-[(2-hydroxyethyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile and 4-acetamidophenol: MS (ES) m/z 446 (M+1).

reactant | 4-[(2-hydroxyethyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | OCCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C12H10F6N2O
reactant | 4-acetamidophenol | C(C)(=O)NC1=CC=C(C=C1)O | C8H9NO2
product | N-[4-({2-[[4-Cyano-3-(trifluoromethyl)phenyl](2,2,2-trifluoroethyl)amino]ethyl}oxy)phenyl]acetamide | C(#N)C1=C(C=C(C=C1)N(CCOC1=CC=C(C=C1)NC(C)=O)CC(F)(F)F)C(F)(F)F | C20H17F6N3O2
